US08404681B2
A solution of 1,6-dihydroxy-3-morpholin-4-yl-xanthen-9-one in anhydrous DMF (2.0 mL) was treated with sodium hydride (27.7 mg, 0.693 mmol). After 15 minutes, a solution of phosphoric acid dibenzyl ester 2-bromoethyl ester (267.0 mg, 0.693 mmol) in DMF (1.0 mL), was added, and reaction mixture was stirred overnight at room temperature. The reaction mixture then was dissolved in EtOAc (250 mL) and washed with water (6×50 mL) and brine (1×50 mL). The organics were dried. (Na2SO4) and concentrated. The residue then was purified via Biotage chromatography using 80% EtOAc in hexanes as, eluent to yield 132 mg (31%) of phosphoric acid dibenzyl ester 2-(8-hydroxy-6-morpholin-4-yl-9-oxo-9H-xanthen-3-yloxy)-ethyl ester as a white solid. 1H NMR (CDCl3, 400 MHz) δ: 12.82 (s, 1H), 8.12 (d, 1H), 7.34 (m, 10H), 6.82 (d, 1H), 6.73 (s, 1H), 6.24 (s, 1H), 6.22 (s, 1H), 5.04 (m, 4H), 4.38 (m, 2H), 4.18 (m, 2H), 3.83 (m, 4H), 3.38 (m, 4H).

reactant | 1,6-dihydroxy-3-morpholin-4-yl-xanthen-9-one | OC1=CC(=CC=2OC3=CC(=CC=C3C(C12)=O)O)N1CCOCC1 | C17H15NO5
reactant | sodium hydride | 0.693 mmol, 27.7 mg | [H-].[Na+]
reactant | phosphoric acid dibenzyl ester 2-bromoethyl ester | 0.693 mmol, 267.0 mg | BrCCOP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C16H18BrO4P
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | phosphoric acid dibenzyl ester 2-(8-hydroxy-6-morpholin-4-yl-9-oxo-9H-xanthen-3-yloxy)-ethyl ester | 132 mg, 31% | OC=1C=C(C=C2OC=3C=C(C=CC3C(C12)=O)OCCOP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O)N1CCOCC1 | C33H32NO9P
